US08012974B2
1-(3-Methyl-tetrahydro-pyran-4-yl)-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea (0.065 g, 0.16 mmol) was suspended in MeOH and cooled down to 0° C. At that temperature the acetyl chloride (0.4 mL) was added. After the addition was complete the orange solution was allowed to warm up and stirred at 40° C. overnight. The solvent was evaporated and the remaining solid was dried under high vacuum. The orange solid was taken up in MeOH:H2O:Et3N 8:1:1 and stirred at RT for 1 hour. The solvent was evaporated. The remaining off-white solid was absorbed onto SiO2 and purified by SiO2 chromatography (12 g SiO2, DCM/magic (DCM:MeOH:NH4OH 60:10:1) 0-25% magic). Obtained 0.023 g of cis-1-(3-methyl-tetrahydro-pyran-4-yl)-3-(5H-pyrrolo[2,3-b]pyrazin-2-yl)-urea as an off-white solid, yield: 52%.

reactant | 1-(3-Methyl-tetrahydro-pyran-4-yl)-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea | 0.16 mmol, 0.065 g | CC1COCCC1NC(=O)NC=1N=C2C(=NC1)N(C=C2)COCC[Si](C)(C)C | C19H31N5O3Si
reactant | acetyl chloride | 0.4 mL | C(C)(=O)Cl | C2H3ClO
solvent | MeOH | CO | CH4O
product | cis-1-(3-methyl-tetrahydro-pyran-4-yl)-3-(5H-pyrrolo[2,3-b]pyrazin-2-yl)-urea | 0.023 g, yield: 52% | C[C@@H]1COCC[C@@H]1NC(=O)NC=1N=C2C(=NC1)NC=C2 | C13H17N5O2
